US08735417B2
2,4-Dichloropyrimidine (3.95 g, 26.5 mmol), tert-butyl (3R)-3-hydroxypyrrolidine-1-carboxylate (4.14 g, 22.11 mmol), and cesium carbonate (18 g, 55.3 mmol) were taken up in DMSO (44 ml). The reaction mixture was heated to 140° C. for 40 min, cooled to room temperature, and diluted with ethyl acetate. The mixture was washed with water (×2) and brine. The combined organics were dried over sodium sulfate, concentrated, and purified by Combiflash (ethyl acetate/hexanes) to afford tert-butyl (3R)-3-[(2-chloropyrimidin-4-yl)oxy]pyrrolidine-1-carboxylate.

reactant | 2,4-Dichloropyrimidine | 26.5 mmol, 3.95 g | ClC1=NC=CC(=N1)Cl | C4H2Cl2N2
reactant | tert-butyl (3R)-3-hydroxypyrrolidine-1-carboxylate | 22.11 mmol, 4.14 g | O[C@H]1CN(CC1)C(=O)OC(C)(C)C | C9H17NO3
reactant | cesium carbonate | 55.3 mmol, 18 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMSO | 44 ml | CS(=O)C | C2H6OS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-butyl (3R)-3-[(2-chloropyrimidin-4-yl)oxy]pyrrolidine-1-carboxylate | ClC1=NC=CC(=N1)O[C@H]1CN(CC1)C(=O)OC(C)(C)C | C13H18ClN3O3
